US04824846
A mixture of 5.11 g (15 mmol) of 1-(4-hydroxyphenyl)piperazine dihydrobromide, 2.48 g (15 mmol) of 1-chlorophthalazine, 2.08 g (15 mmol) of powdered K2CO3 and 55 ml of absolute DMF was warmed to 85° C., and 346 mg of powdered K2CO3 were added at 85° C. with stirring in each case after 10 minutes, after a further 25 minutes and after a further 60 minutes (a total of 1.038 g, 7.51 mmol of K2CO3), and the mixture was stirred for a further 2 hours at 90° C. and 3 hours at 105° C. The DMF was then removed by distillation in vacuo, the residue was taken up in CH2Cl2 /water, the phases were separated after through mixing, and the aqueous solution was extracted three times with CH2Cl2. The combined CH2Cl2 extracts were dried, filtered and evaporated in vacuo. The residue remaining (4.75 g) was chromatographed on a silica gel S/CH2Cl2 column (diameter 2.6 cm, height 43 cm) by elution with CH2Cl2 /C2H5OH mixtures with increasing C2H5OH content (1-10% by volume). The fractions in which, according to TLC, the required compound was concentrated were combined and evaporated. The crystalline residue produced (2.04 g) was boiled briefly with 15 ml of CH2Cl2, cooled in an ice bath, and filtered off under suction. 0.73 g of pure 1-(4-hydroxyphenyl)-4-(1-phthalazinyl)piperazine, melting point 244°-45° C., were thus obtained. The mother liquor was again purified by chromatography in analogous fashion to the first column chromatography on a silica gel/CH2Cl2 column (diameter 2.0 cm, height 22 cm). The concentrated product produced from this procedure was, like the first part, boiled briefly with 7 ml of CH2Cl2 and filtered off under suction when cool. A further 0.28 g of pure compound, melting point 244°-45° C., was obtained from this procedure. The total yield was 1.01 g=22% of theory;

reactant | 1-(4-hydroxyphenyl)piperazine dihydrobromide | 15 mmol, 5.11 g | Br.Br.OC1=CC=C(C=C1)N1CCNCC1
reactant | 1-chlorophthalazine | 15 mmol, 2.48 g | ClC1=NN=CC2=CC=CC=C12 | C8H5ClN2
reactant | K2CO3 | 15 mmol, 2.08 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 55 ml | CN(C)C=O | C3H7NO
reactant | K2CO3 | 346 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 7.51 mmol, 1.038 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-hydroxyphenyl)-4-(1-phthalazinyl)piperazine | 0.73 g | OC1=CC=C(C=C1)N1CCN(CC1)C1=NN=CC2=CC=CC=C12 | C18H18N4O
